US07199239B2
Intermediate 30: N-Butyl-N-[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine
1,1,2-trimethoxyethane (0.162 mL, 1.26 mL) was added to 0.5N HCl (2.52 mL, 1.26 mmol) and the resultant solution heated for 1 h at 50° C. The cooled reaction mixture was extracted with CH2Cl2. The organic solution was passed through a hydrophobic frit, dried for 2 h (3A molecular sieves). 2-Methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine (0.32 g, 1.26 mmol) was added to the organic solution and the solution stirred for 20 min at rt. Sodium triacetoxyborohydride (0.325 g, 1.77 mmol) and acetic acid (0.072 mL, 1.26 mmol) were then added, and the resultant mixture stirred for 16 h at rt. Saturated sodium bicarbonate was added to the reaction mixture and once effervescence had ceased the mixture was extracted with CH2Cl2. The organic solution was passed through a hydrophobic frit and the solvents removed in vacuo. Purification by Biotage™ chromatography (silica, 40 g) eluted with 10% EtOAc/cyclohexane afforded the title compound (42 mg).

reactant | 1,1,2-trimethoxyethane | 0.162 mL | COC(COC)OC | C5H12O3
reactant | HCl | 1.26 mmol, 0.5N, 2.52 mL | Cl | ClH
reactant | 2-Methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-ylamine | 1.26 mmol, 0.32 g | CC1=C(C=CC=C1N)C1=CC=C(C=C1)C(F)(F)F | C14H12F3N
reactant | Sodium triacetoxyborohydride | 1.77 mmol, 0.325 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.26 mmol, 0.072 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-Butyl-N-[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 42 mg | C(CCC)NC=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C18H20F3N
